US07247626B2
N-Cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine (0.49 g, 1.5 mmol) was dissolved in dichloromethane. To this solution was added N-bromosuccinimide (330 mg, 1.85 mmol) and the resulting solution was stirred at room temperature for 30 minutes. Additional dichloromethane was added and the reaction mixture was extracted with 1N aqueous sodium hydroxide and with water. The organic phase was dried (magnesium sulfate), filtered and concentrated to give a solid. This solid was purified by silica gel chromatography (ethyl acetate:hexane 1:2) to give 0.5 g (82%) of 8-bromo-N-cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine as a solid. 1H-NMR (CDCl3): δ 8.05 (m,2H), 7.55 (m,3H), 6.52 (d, 1H), 4.60 (m,1H), 2.66 (s, 3H), 2.3–2.1 (m, 2H), 2.0–1.6 (m, 6H); MS m/z 405 (M+1).

reactant | N-Cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine | 1.5 mmol, 0.49 g | C1(CCCC1)NC1=NC(=NC=2N1N=C(C2)C2=CC=CC=C2)SC | C17H19N5S
reactant | N-bromosuccinimide | 1.85 mmol, 330 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-bromo-N-cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine | 0.5 g, 82% | BrC=1C(=NN2C1N=C(N=C2NC2CCCC2)SC)C2=CC=CC=C2 | C17H18BrN5S
